US06369088B2
5-Methoxy-3-(4-(2,5-dimethylpyrrol-1-yl)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one
The latter compound was obtained by reacting 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one with equimolar amounts of acetonylacetone in glacial acetic acid at 80° C. Working up took place by dilution with water, extraction by shaking with ethyl acetate and column chromatography (silica gel, methylene chloride) of the crude product obtained after concentration of the dried organic phase.

reactant | 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N)C | C10H11N3O3
reactant | acetonylacetone | C(C(=O)C)CC(C)=O | C6H10O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Methoxy-3-(4-(2,5-dimethylpyrrol-1-yl)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N1C(=CC=C1C)C)C | C16H17N3O3
